US07544697B2
1-Benzyl-5-methyl-1H-pyrazole-3-carboxamide (28.22 g, 0.131 mol) was treated with phosphorus oxychloride (112 mL) according to the general method described in Part C of Example 8. The mixture was heated for 3 hours at 90° C. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 1-25% ethyl acetate in hexanes). The appropriate fractions were combined, dried over magnesium sulfate, and concentrated under reduced pressure to yield 3.38 g of 1-benzyl-5-methyl-1H-pyrazole-3-carbonitrile as a white solid.

reactant | 1-Benzyl-5-methyl-1H-pyrazole-3-carboxamide | 0.131 mol, 28.22 g | C(C1=CC=CC=C1)N1N=C(C=C1C)C(=O)N | C12H13N3O
reactant | phosphorus oxychloride | 112 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-benzyl-5-methyl-1H-pyrazole-3-carbonitrile | 3.38 g | C(C1=CC=CC=C1)N1N=C(C=C1C)C#N | C12H11N3
